US05250547
A solution of 6-trifluoromethyl-2,2-dimethyl-3-(hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.33 g, 0.9 mmol) in dichloromethane (9 ml) was cooled to 0° C. and treated with triethylamine (0.12 ml, 0.9 mmol) and trifluoroacetic anhydride (0.12 ml, 0.9 mmol) and stirred at 0° C. during 2.5 hours. Water was added, the organic layer separated, washed with water, and dried and evaporated to give crude product. Chromatography on silica gel eluting with dichloromethane/methanol (95/5) gave an oil which was crystallized from ether to give 0.21 g of 6-trifluoromethyl-2,2-dimethyl-3-(N-hydroxytrifluoroacetamido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 208° C.

reactant | 6-trifluoromethyl-2,2-dimethyl-3-(hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.9 mmol, 0.33 g | FC(C=1C=CC2=C(C(=C(C(O2)(C)C)CNO)N2C(C=CC=C2)=O)C1)(F)F | C18H17F3N2O3
reactant | triethylamine | 0.9 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.9 mmol, 0.12 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane acetone | ClCCl.CC(=O)C
product | 6-trifluoromethyl-2,2-dimethyl-3-(N-hydroxytrifluoroacetamido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.21 g | FC(C=1C=CC2=C(C(=C(C(O2)(C)C)CN(C(C(F)(F)F)=O)O)N2C(C=CC=C2)=O)C1)(F)F | C20H16F6N2O4
